US07692041B2
The oxidation of D-glucose was carried out as in Examples 1 and 2. However, potassium hydroxide was substituted for sodium hydroxide in the neutralization process to give crude D-glucaric acid dipotassium salt (151.25 g, 70.4% based on pure dipotassium D-glucarate). The salt was precipitated from methanol as described to give an off white solid (145.75 g, 67.9% based on pure dipotassium D-glucarate).

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
product | dipotassium D-glucarate | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)C(=O)[O-])[O-].[K+].[K+] | InChI=1S/C6H10O8.2K/c7-1(3(9)5(11)12)2(8)4(10)6(13)14;;/h1-4,7-10H,(H,11,12)(H,13,14);;/q;2*+1/p-2/t1-,2-,3-,4+;;/m0../s1
